* NGSPICE file created from gf180mcu_fd_io__brk5_flat.ext - technology: gf180mcuD

.subckt gf180mcu_fd_io__brk5_flat VSS
R0 VSS.n153 VSS.n150 2143.41
R1 VSS.n150 VSS.n28 2143.3
R2 VSS.n153 VSS.n151 2142.13
R3 VSS.n151 VSS.n28 2142.02
R4 VSS.n149 VSS.n148 1755.02
R5 VSS.n148 VSS.n31 1753.29
R6 VSS.n77 VSS.n31 1753.29
R7 VSS.n77 VSS.n76 1753.29
R8 VSS.n81 VSS.n76 1753.29
R9 VSS.n82 VSS.n81 1753.29
R10 VSS.n83 VSS.n82 1753.29
R11 VSS.n83 VSS.n74 1753.29
R12 VSS.n87 VSS.n74 1753.29
R13 VSS.n88 VSS.n87 1753.29
R14 VSS.n89 VSS.n88 1753.29
R15 VSS.n89 VSS.n72 1753.29
R16 VSS.n93 VSS.n72 1753.29
R17 VSS.n94 VSS.n93 1753.29
R18 VSS.n95 VSS.n94 1753.29
R19 VSS.n95 VSS.n70 1753.29
R20 VSS.n99 VSS.n70 1753.29
R21 VSS.n100 VSS.n99 1753.29
R22 VSS.n101 VSS.n100 1753.29
R23 VSS.n101 VSS.n68 1753.29
R24 VSS.n105 VSS.n68 1753.29
R25 VSS.n106 VSS.n105 1753.29
R26 VSS.n107 VSS.n106 1753.29
R27 VSS.n107 VSS.n66 1753.29
R28 VSS.n111 VSS.n66 1753.29
R29 VSS.n112 VSS.n111 1753.29
R30 VSS.n112 VSS.n21 1753.29
R31 VSS.n174 VSS.n21 1753.29
R32 VSS.n174 VSS.n173 1753.29
R33 VSS.n173 VSS.n172 1753.29
R34 VSS.n172 VSS.n22 1753.29
R35 VSS.n168 VSS.n22 1753.29
R36 VSS.n168 VSS.n167 1753.29
R37 VSS.n167 VSS.n166 1753.29
R38 VSS.n166 VSS.n24 1753.29
R39 VSS.n162 VSS.n24 1753.29
R40 VSS.n162 VSS.n161 1753.29
R41 VSS.n161 VSS.n160 1753.29
R42 VSS.n160 VSS.n26 1753.29
R43 VSS.n156 VSS.n26 1753.29
R44 VSS.n156 VSS.n155 1753.29
R45 VSS.n154 VSS.n29 1660.33
R46 VSS.n155 VSS.n154 94.6903
R47 VSS.n151 VSS.n29 3.01582
R48 VSS.n128 VSS.n127 2.08321
R49 VSS.n155 VSS.n27 1.73383
R50 VSS.n157 VSS.n156 1.73383
R51 VSS.n158 VSS.n26 1.73383
R52 VSS.n160 VSS.n159 1.73383
R53 VSS.n161 VSS.n25 1.73383
R54 VSS.n163 VSS.n162 1.73383
R55 VSS.n164 VSS.n24 1.73383
R56 VSS.n166 VSS.n165 1.73383
R57 VSS.n167 VSS.n23 1.73383
R58 VSS.n169 VSS.n168 1.73383
R59 VSS.n170 VSS.n22 1.73383
R60 VSS.n172 VSS.n171 1.73383
R61 VSS.n173 VSS.n17 1.73383
R62 VSS.n175 VSS.n174 1.73383
R63 VSS.n21 VSS.n20 1.73383
R64 VSS.n113 VSS.n112 1.73383
R65 VSS.n111 VSS.n110 1.73383
R66 VSS.n109 VSS.n66 1.73383
R67 VSS.n108 VSS.n107 1.73383
R68 VSS.n106 VSS.n67 1.73383
R69 VSS.n105 VSS.n104 1.73383
R70 VSS.n103 VSS.n68 1.73383
R71 VSS.n102 VSS.n101 1.73383
R72 VSS.n100 VSS.n69 1.73383
R73 VSS.n99 VSS.n98 1.73383
R74 VSS.n97 VSS.n70 1.73383
R75 VSS.n96 VSS.n95 1.73383
R76 VSS.n94 VSS.n71 1.73383
R77 VSS.n93 VSS.n92 1.73383
R78 VSS.n91 VSS.n72 1.73383
R79 VSS.n90 VSS.n89 1.73383
R80 VSS.n88 VSS.n73 1.73383
R81 VSS.n87 VSS.n86 1.73383
R82 VSS.n85 VSS.n74 1.73383
R83 VSS.n84 VSS.n83 1.73383
R84 VSS.n82 VSS.n75 1.73383
R85 VSS.n81 VSS.n80 1.73383
R86 VSS.n79 VSS.n76 1.73383
R87 VSS.n78 VSS.n77 1.73383
R88 VSS.n61 VSS.n31 1.73383
R89 VSS.n148 VSS.n147 1.73383
R90 VSS.n150 VSS.n149 1.015
R91 VSS.n178 VSS.n176 0.9005
R92 VSS.n179 VSS.n16 0.9005
R93 VSS.n19 VSS.n15 0.9005
R94 VSS.n18 VSS.n5 0.9005
R95 VSS.n190 VSS.n3 0.9005
R96 VSS.n65 VSS.n2 0.9005
R97 VSS.n115 VSS.n114 0.9005
R98 VSS.n127 VSS.n64 0.9005
R99 VSS.n189 VSS.n4 0.9005
R100 VSS.n127 VSS.n126 0.9005
R101 VSS.n117 VSS.n115 0.9005
R102 VSS.n121 VSS.n2 0.9005
R103 VSS.n191 VSS.n190 0.9005
R104 VSS.n189 VSS.n188 0.9005
R105 VSS.n6 VSS.n5 0.9005
R106 VSS.n15 VSS.n13 0.9005
R107 VSS.n180 VSS.n179 0.9005
R108 VSS.n178 VSS.n177 0.9005
R109 VSS.n135 VSS.n60 0.9005
R110 VSS.n59 VSS.n58 0.9005
R111 VSS.n35 VSS.n33 0.9005
R112 VSS.n146 VSS.n145 0.9005
R113 VSS.n46 VSS.n45 0.9005
R114 VSS.n44 VSS.n30 0.9005
R115 VSS.n128 VSS.n63 0.9005
R116 VSS.n34 VSS.n32 0.9005
R117 VSS.n134 VSS.n62 0.9005
R118 VSS.n136 VSS.n135 0.9005
R119 VSS.n58 VSS.n56 0.9005
R120 VSS.n37 VSS.n35 0.9005
R121 VSS.n145 VSS.n144 0.9005
R122 VSS.n48 VSS.n34 0.9005
R123 VSS.n47 VSS.n46 0.9005
R124 VSS.n44 VSS.n43 0.9005
R125 VSS.n129 VSS.n128 0.9005
R126 VSS.n134 VSS.n133 0.9005
R127 VSS.n126 VSS.n116 0.762146
R128 VSS.n177 VSS.n10 0.762146
R129 VSS.n43 VSS.n40 0.762146
R130 VSS.n130 VSS.n129 0.762146
R131 VSS.n183 VSS.n182 0.7505
R132 VSS.n184 VSS.n8 0.7505
R133 VSS.n186 VSS.n185 0.7505
R134 VSS.n9 VSS.n7 0.7505
R135 VSS.n119 VSS.n118 0.7505
R136 VSS.n123 VSS.n120 0.7505
R137 VSS.n125 VSS.n124 0.7505
R138 VSS.n123 VSS.n122 0.7505
R139 VSS.n118 VSS.n0 0.7505
R140 VSS.n7 VSS.n1 0.7505
R141 VSS.n187 VSS.n186 0.7505
R142 VSS.n12 VSS.n8 0.7505
R143 VSS.n182 VSS.n181 0.7505
R144 VSS.n14 VSS.n11 0.7505
R145 VSS.n54 VSS.n53 0.7505
R146 VSS.n139 VSS.n138 0.7505
R147 VSS.n140 VSS.n39 0.7505
R148 VSS.n142 VSS.n141 0.7505
R149 VSS.n52 VSS.n38 0.7505
R150 VSS.n51 VSS.n50 0.7505
R151 VSS.n42 VSS.n41 0.7505
R152 VSS.n50 VSS.n49 0.7505
R153 VSS.n38 VSS.n36 0.7505
R154 VSS.n143 VSS.n142 0.7505
R155 VSS.n55 VSS.n39 0.7505
R156 VSS.n138 VSS.n137 0.7505
R157 VSS.n57 VSS.n54 0.7505
R158 VSS.n132 VSS.n131 0.7505
R159 VSS.n120 VSS.n116 0.382521
R160 VSS.n183 VSS.n10 0.382521
R161 VSS.n51 VSS.n40 0.382521
R162 VSS.n130 VSS.n53 0.382521
R163 VSS.n79 VSS.n78 0.0490526
R164 VSS.n80 VSS.n79 0.0490526
R165 VSS.n80 VSS.n75 0.0490526
R166 VSS.n84 VSS.n75 0.0490526
R167 VSS.n85 VSS.n84 0.0490526
R168 VSS.n86 VSS.n85 0.0490526
R169 VSS.n86 VSS.n73 0.0490526
R170 VSS.n90 VSS.n73 0.0490526
R171 VSS.n91 VSS.n90 0.0490526
R172 VSS.n92 VSS.n91 0.0490526
R173 VSS.n92 VSS.n71 0.0490526
R174 VSS.n96 VSS.n71 0.0490526
R175 VSS.n97 VSS.n96 0.0490526
R176 VSS.n98 VSS.n97 0.0490526
R177 VSS.n98 VSS.n69 0.0490526
R178 VSS.n102 VSS.n69 0.0490526
R179 VSS.n103 VSS.n102 0.0490526
R180 VSS.n104 VSS.n103 0.0490526
R181 VSS.n104 VSS.n67 0.0490526
R182 VSS.n108 VSS.n67 0.0490526
R183 VSS.n109 VSS.n108 0.0490526
R184 VSS.n110 VSS.n109 0.0490526
R185 VSS.n175 VSS.n17 0.0490526
R186 VSS.n171 VSS.n17 0.0490526
R187 VSS.n171 VSS.n170 0.0490526
R188 VSS.n170 VSS.n169 0.0490526
R189 VSS.n169 VSS.n23 0.0490526
R190 VSS.n165 VSS.n23 0.0490526
R191 VSS.n165 VSS.n164 0.0490526
R192 VSS.n164 VSS.n163 0.0490526
R193 VSS.n163 VSS.n25 0.0490526
R194 VSS.n159 VSS.n25 0.0490526
R195 VSS.n159 VSS.n158 0.0490526
R196 VSS.n158 VSS.n157 0.0490526
R197 VSS.n157 VSS.n27 0.0490526
R198 VSS.n152 VSS.n29 0.0469789
R199 VSS.n78 VSS.n63 0.0374643
R200 VSS.n176 VSS.n175 0.0327274
R201 VSS.n110 VSS.n64 0.0300207
R202 VSS.n149 VSS.n30 0.0258323
R203 VSS.n124 VSS.n123 0.01166
R204 VSS.n123 VSS.n118 0.01166
R205 VSS.n118 VSS.n7 0.01166
R206 VSS.n186 VSS.n7 0.01166
R207 VSS.n186 VSS.n8 0.01166
R208 VSS.n182 VSS.n8 0.01166
R209 VSS.n182 VSS.n11 0.01166
R210 VSS.n127 VSS.n115 0.01166
R211 VSS.n115 VSS.n2 0.01166
R212 VSS.n190 VSS.n2 0.01166
R213 VSS.n190 VSS.n189 0.01166
R214 VSS.n189 VSS.n5 0.01166
R215 VSS.n15 VSS.n5 0.01166
R216 VSS.n179 VSS.n15 0.01166
R217 VSS.n179 VSS.n178 0.01166
R218 VSS.n46 VSS.n44 0.01166
R219 VSS.n46 VSS.n34 0.01166
R220 VSS.n145 VSS.n34 0.01166
R221 VSS.n145 VSS.n35 0.01166
R222 VSS.n58 VSS.n35 0.01166
R223 VSS.n135 VSS.n58 0.01166
R224 VSS.n135 VSS.n134 0.01166
R225 VSS.n134 VSS.n128 0.01166
R226 VSS.n50 VSS.n41 0.01166
R227 VSS.n50 VSS.n38 0.01166
R228 VSS.n142 VSS.n38 0.01166
R229 VSS.n142 VSS.n39 0.01166
R230 VSS.n138 VSS.n39 0.01166
R231 VSS.n138 VSS.n54 0.01166
R232 VSS.n131 VSS.n54 0.01166
R233 VSS.n45 VSS.n30 0.0109887
R234 VSS.n45 VSS.n32 0.0109887
R235 VSS.n146 VSS.n33 0.0109887
R236 VSS.n59 VSS.n33 0.0109887
R237 VSS.n60 VSS.n59 0.0109887
R238 VSS.n63 VSS.n62 0.0109887
R239 VSS.n114 VSS.n64 0.0109887
R240 VSS.n65 VSS.n3 0.0109887
R241 VSS.n4 VSS.n3 0.0109887
R242 VSS.n18 VSS.n4 0.0109887
R243 VSS.n19 VSS.n18 0.0109887
R244 VSS.n176 VSS.n16 0.0109887
R245 VSS.n61 VSS.n60 0.0098891
R246 VSS.n152 VSS.n28 0.00910927
R247 VSS.n154 VSS.n28 0.00910927
R248 VSS.n153 VSS.n152 0.00910927
R249 VSS.n154 VSS.n153 0.00910927
R250 VSS.n114 VSS.n113 0.00904323
R251 VSS.n147 VSS.n146 0.00819737
R252 VSS.n120 VSS.n119 0.00794
R253 VSS.n185 VSS.n9 0.00794
R254 VSS.n185 VSS.n184 0.00794
R255 VSS.n184 VSS.n183 0.00794
R256 VSS.n52 VSS.n51 0.00794
R257 VSS.n141 VSS.n52 0.00794
R258 VSS.n141 VSS.n140 0.00794
R259 VSS.n140 VSS.n139 0.00794
R260 VSS.n139 VSS.n53 0.00794
R261 VSS.n11 VSS.n10 0.00651166
R262 VSS.n124 VSS.n116 0.00651166
R263 VSS.n131 VSS.n130 0.00651166
R264 VSS.n41 VSS.n40 0.00651166
R265 VSS.n20 VSS.n16 0.00633647
R266 VSS.n126 VSS.n125 0.00608
R267 VSS.n125 VSS.n117 0.00608
R268 VSS.n122 VSS.n117 0.00608
R269 VSS.n122 VSS.n121 0.00608
R270 VSS.n121 VSS.n0 0.00608
R271 VSS.n191 VSS.n1 0.00608
R272 VSS.n188 VSS.n1 0.00608
R273 VSS.n188 VSS.n187 0.00608
R274 VSS.n187 VSS.n6 0.00608
R275 VSS.n12 VSS.n6 0.00608
R276 VSS.n13 VSS.n12 0.00608
R277 VSS.n181 VSS.n13 0.00608
R278 VSS.n181 VSS.n180 0.00608
R279 VSS.n180 VSS.n14 0.00608
R280 VSS.n177 VSS.n14 0.00608
R281 VSS.n43 VSS.n42 0.00608
R282 VSS.n47 VSS.n42 0.00608
R283 VSS.n49 VSS.n47 0.00608
R284 VSS.n49 VSS.n48 0.00608
R285 VSS.n48 VSS.n36 0.00608
R286 VSS.n144 VSS.n36 0.00608
R287 VSS.n144 VSS.n143 0.00608
R288 VSS.n143 VSS.n37 0.00608
R289 VSS.n56 VSS.n55 0.00608
R290 VSS.n137 VSS.n56 0.00608
R291 VSS.n137 VSS.n136 0.00608
R292 VSS.n136 VSS.n57 0.00608
R293 VSS.n133 VSS.n57 0.00608
R294 VSS.n133 VSS.n132 0.00608
R295 VSS.n132 VSS.n129 0.00608
R296 VSS VSS.n0 0.00563
R297 VSS.n20 VSS.n19 0.00515226
R298 VSS VSS.n9 0.00452
R299 VSS VSS.n37 0.00428
R300 VSS.n119 VSS 0.00392
R301 VSS.n147 VSS.n32 0.00329135
R302 VSS.n152 VSS.n27 0.00312218
R303 VSS.n113 VSS.n65 0.00244549
R304 VSS.n55 VSS 0.0023
R305 VSS.n62 VSS.n61 0.00159962
R306 VSS VSS.n191 0.00095
.ends

